US07842701B2
3-amino-7-{[3-(4-methyl-1-piperazinyl)propyl]amino}-2-phenyl-2,5-dihydro-4H-pyrazolo[4, 3-c]quinolin-4-one
A mixture of 1-methylpiperazine (86 μl), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.8 μl) and tetrahydrofuran (6 ml), was cooled to −20° C., acrolein (51.7 μl) was added thereto, and was stirred for 1 hour from −20° C. to −10° C. To the reaction mixture was added 3,7-diamino-2-phenyl-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (100 mg), stirred at 0° C. for 30 minutes, sodium triacetoxyborohydride (268 mg) was added thereto, and stirred at room temperature for 3 hours. The reaction mixture was basified by adding 5% sodium hydrogen carbonate, brine were added thereto and then extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified with aminopropylated silica gel column chromatography. To the concentrated residue of fraction was solidified by adding diisopropyl ether-hexane. The solid was collected by filtration, washed with hexane, and dried to obtain the target compound (45 mg).

reactant | 1-methylpiperazine | 86 μl | CN1CCNCC1 | C5H12N2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.8 μl | N12CCCCCC2=NCCC1 | C9H16N2
reactant | acrolein | 51.7 μl | C(=O)C=C | C3H4O
reactant | 3,7-diamino-2-phenyl-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 100 mg | NC=1N(N=C2C1C(NC=1C=C(C=CC21)N)=O)C2=CC=CC=C2 | C16H13N5O
reactant | sodium triacetoxyborohydride | 268 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | brine | [Cl-].[Na+].O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 3-amino-7-{[3-(4-methyl-1-piperazinyl)propyl]amino}-2-phenyl-2,5-dihydro-4H-pyrazolo[4, 3-c]quinolin-4-one | 45 mg | NC=1N(N=C2C1C(NC=1C=C(C=CC21)NCCCN2CCN(CC2)C)=O)C2=CC=CC=C2 | C24H29N7O
